data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1229,1339,[CH3:14][C:15](=[O:16])[c:17]1[o:18][c:19](=[O:20])[c-:21]([C:22]([CH3:23])=[O:24])[n+:25]1[CH3:26].[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]=[C:7]2[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH:1]12[CH:2]([CH:3]3[O:4][CH:5]1[CH:6]=[C:7]3[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[C:17]1([C:15]([CH3:14])=[O:16])[O:18][C:19](=[O:20])[C:21]2([C:22]([CH3:23])=[O:24])[N:25]1[CH3:26],water,298.15,23.35237910726317,-15.228018019809776
1374,1511,[N:1]#[C:2][C:3]1([Cl:4])[C:5]#[C:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1.[O-:12][NH+:13]=[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[N:1]#[C:2][C:3]1([Cl:4])[C:5]2=[C:6]([CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1)[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:13][O:12]2,water,298.15,20.21084630898061,-26.78669028544445
1110,1208,[CH3:15][C-:16]([C:17]#[N:18])[NH+:19]=[CH:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:16]([CH3:15])([C:17]#[N:18])[NH:19][CH:20]2[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,13.790504498061903,-22.82593865574007
4998,5686,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C:19](=[NH+:20][C-:21]([CH3:22])[C:23]#[N:24])[C:25]([CH3:26])=[O:27]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:21]([CH3:22])([C:23]#[N:24])[NH:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:25]([CH3:26])=[O:27],water,298.15,25.248675069511968,1.1746332972985956
2502,2779,[CH3:17][NH:18][C:19](=[O:20])[C:21]([C:22]#[N:23])=[N+:24]([CH3:25])[C-:26]([C:27]([CH3:28])=[O:29])[C:30](=[O:31])[NH:32][CH3:33].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([CH3:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([CH3:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([NH:18][CH3:17])=[O:20])([C:22]#[N:23])[N:24]([CH3:25])[C:26]2([C:27]([CH3:28])=[O:29])[C:30](=[O:31])[NH:32][CH3:33],water,298.15,25.8947783004466,-35.87384411063414
3603,4113,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[CH:13]=[O+:14][CH-:15][C:16](=[O:17])[O:18][CH3:19]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[CH:15]([C:16](=[O:17])[O:18][CH3:19])[O:14][CH:13]2[C:11]([O:10][CH3:9])=[O:12],water,298.15,5.3789514330799575,-55.86286912129757
4684,5340,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N+:12](=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C-:22]([C:23]#[N:24])[C:25]#[N:26]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:13]([C:14]#[N:15])([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:12]([CH3:11])[C:22]2([C:23]#[N:24])[C:25]#[N:26],water,298.15,26.377256356723475,-14.249108220675216
4875,5558,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[N-:19][O+:20]=[C:21]([C:22]#[N:23])[C:24]([CH3:25])=[O:26]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:19]([C:17]([O:16][CH3:15])=[O:18])[O:20][C:21]2([C:22]#[N:23])[C:24]([CH3:25])=[O:26],water,298.15,14.528637802141771,-36.25358067967736
3456,3935,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[CH:10]=[NH+:11][CH-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[NH:11][CH:10]1[C:8]([CH3:7])=[O:9],water,298.15,29.45835880613683,-12.336893067948894
5236,5940,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([CH3:20])=[NH+:21][C-:22]([C:23](=[O:24])[O:25][CH3:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:22]([C:23](=[O:24])[O:25][CH3:26])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[NH:21][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[CH3:20],water,298.15,21.744755255206066,5.849790952381183
2402,2667,[CH3:17][NH:18][C:19](=[O:20])[CH:21]=[O+:22][C-:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]3[CH:14]([CH:15]1[O:16]2)[C:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[O:22][CH:21]3[C:19]([NH:18][CH3:17])=[O:20],water,298.15,10.327689547789968,-69.07227923306324
